US07943628B2
Preparation 13:4-Chloro-6-[(3aR,6aS)-5-methylhexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyrimidin-2-amine
2-Amino-4,6-dichloropyrimidine (1.64 g, 10 mmol) was added portionwise to a stirred solution (3aR,6aS)-2-methyloctahydropyrrolo[3,4-c]pyrrole (1.6 g, 12.5 mmol) in absolute EtOH (10 mL) followed by TEA (1.8 mL, 12.5 mmol) dropwise at ambient temperature. The resulting suspension was warmed to reflux (initially a clear solution was observed on warming) and resulted in the gradual formation of a tan coloured precipitate. The mixture was refluxed for a total of 3 hours. The mixture was allowed to cool, EtOH (30 mL) was added to the mixture and heated to give a solution and was left to cool to ambient temperature. The resulting solid was collected by filtration, washed with cold EtOH (50 mL) and dried under suction to yield the title compound as a solid (2.07 g, 82%).

reactant | 2-Amino-4,6-dichloropyrimidine | 10 mmol, 1.64 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | (3aR,6aS)-2-methyloctahydropyrrolo[3,4-c]pyrrole | 12.5 mmol, 1.6 g | CN1C[C@@H]2CNC[C@@H]2C1 | C7H14N2
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOH | 30 mL | CCO | C2H6O
product | 4-Chloro-6-[(3aR,6aS)-5-methylhexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyrimidin-2-amine | 2.07 g, 82% | ClC1=NC(=NC(=C1)N1C[C@@H]2CN(C[C@@H]2C1)C)N | C11H16ClN5
